US07968570B2
A mixture of 2-bromomethyl-benzoic acid methyl ester (0.230 g, 1 mmol), C-cyclohexyl-methylamine (0.190 g, 1 mmol), and K2CO3 (0.230 g, 1.67 mmol) in toluene (6 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-cyclohexylmethyl-2,3-dihydro-isoindol-1-one (0.085 g, 37%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.18 (m, 5H), 1.72 (m, 6H), 3.46 (d, 2H), 4.38 (s, 2H) 7.42-7.53 (m, 3H), 7.85 (d, 1H). GC-MS: m/z 229 (M)+.

reactant | 2-bromomethyl-benzoic acid methyl ester | 1 mmol, 0.230 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | C-cyclohexyl-methylamine | 1 mmol, 0.190 g | C1(CCCCC1)CN | C7H15N
reactant | K2CO3 | 1.67 mmol, 0.230 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-cyclohexylmethyl-2,3-dihydro-isoindol-1-one | 0.085 g, 37% | C1(CCCCC1)CN1C(C2=CC=CC=C2C1)=O | C15H19NO
